US05391556
N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-naphthalene-2-sulphonamide
Prepared from N-[1-((4-amino-3-nitro-phenyl)-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-naphthalene-2sulphonamide and cyclising with formic acid in the presence of palladium/charcoal analogously to Example 1.

reactant | N-[1-((4-amino-3-nitro-phenyl)-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-naphthalene-2sulphonamide | NC1=C(C=C(C=C1)CC(C(=O)N1CCC(CC1)C)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)[N+](=O)[O-] | C25H28N4O5S
reactant | formic acid | C(=O)O | CH2O2
catalyst | palladium/charcoal | [Pd] | Pd
product | N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-naphthalene-2-sulphonamide | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C2=CC1=CC=CC=C1C=C2 | C26H28N4O3S
